US05646171
22(i) 4-(1-Hydroxy-1-methylethyl)-2-propylimidazole-5-carboxylic acid
A solution of 0.28 g of lithium hydroxide monohydrate in 5 ml of water was added to a solution of 0.48 g of ethyl 4-(1-hydroxy-1-methylethyl)-2-propylimidazole-5-carboxylate (prepared as described in Preparation 9) in 5 ml of methanol, and the resulting mixture was stirred at room temperature for 18 hours. At the end of this time, the pH of the reaction mixture was adjusted to a value of 2.3 by adding 6.67 ml of 1N aqueous hydrochloric acid, and the mixture was concentrated by evaporation under reduced pressure to a volume of about 2 ml. The crystals which precipitated were collected by filtration to give 0.20 g of the title compound, melting at 232° C. (with decomposition).

reactant | lithium hydroxide monohydrate | 0.28 g | O.[OH-].[Li+]
reactant | ethyl 4-(1-hydroxy-1-methylethyl)-2-propylimidazole-5-carboxylate | 0.48 g | OC(C)(C)C=1N=C(NC1C(=O)OCC)CCC | C12H20N2O3
reactant | hydrochloric acid | 1N, 6.67 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | 4-(1-Hydroxy-1-methylethyl)-2-propylimidazole-5-carboxylic acid | 0.20 g | OC(C)(C)C=1N=C(NC1C(=O)O)CCC | C10H16N2O3
